US04564577
N-Phenyl-N-(3-pentadecyl-1,4-naphthoquinonylmethyl)carbamoyl chloride
2-Anilinomethyl-3-pentadecyl-1,4-naphthoquinone hydrochloride (9.25 g, 18.1 mmol) was dissolved in dichloromethane (100 ml). A 12 percent solution of phosgene in toluene (45 ml, 54.4 mmol) and diisopropylethylamine (50 ml) were added and the resulting solution was stirred at room temperature for about 15 minutes. The solution was then concentrated under reduced pressure and the residue was taken up in dichloromethane. The solution was washed with 2N hydrochloric acid, dried over anhydrous magnesium sulfate, filtered, and concentrated. The product was used as a crude oil in the preparation of the above PRDR.

reactant | 2-Anilinomethyl-3-pentadecyl-1,4-naphthoquinone hydrochloride | 18.1 mmol, 9.25 g | Cl.N(C1=CC=CC=C1)CC=1C(C2=CC=CC=C2C(C1CCCCCCCCCCCCCCC)=O)=O
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 54.4 mmol, 45 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | diisopropylethylamine | 50 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | N-Phenyl-N-(3-pentadecyl-1,4-naphthoquinonylmethyl)carbamoyl chloride | C1(=CC=CC=C1)N(C(=O)Cl)CC=1C(C2=CC=CC=C2C(C1CCCCCCCCCCCCCCC)=O)=O | C33H42ClNO3
